US08058276B2
Step 7.2: 6-Hydroxy-benzo[d]isothiazole-3-carboxylic acid [4-(4-methyl-piperazin-1-ylmethyl)-3-trifluoromethyl-phenyl]-amide
1.923 g (4.14 mMol) 6-methoxy-benzo[d]isothiazole-3-carboxylic acid [4-(4-methyl-piperazin-1-ylmethyl)-3-trifluoromethyl-phenyl]-amide in 120 ml of a 1 M solution of BBr3 in CH2Cl2 are stirred for 16 h at 45° C. Then the solution is poured into water and EtOAc, the aq. layer is neutralized with Na2CO3, separated off and extracted twice with EtOAc. The organic layers are washed twice with water and brine, dried (Na2SO4) and concentrated. Reversed phase chromatography (Gilson system) gives the title compound: MS: [M−1]=451; HPLC: tRet=11.6.

reactant | 6-methoxy-benzo[d]isothiazole-3-carboxylic acid [4-(4-methyl-piperazin-1-ylmethyl)-3-trifluoromethyl-phenyl]-amide | 4.14 mMol, 1.923 g | CN1CCN(CC1)CC1=C(C=C(C=C1)NC(=O)C1=NSC2=C1C=CC(=C2)OC)C(F)(F)F | C22H23F3N4O2S
reactant | BBr3 | B(Br)(Br)Br | BBr3
reactant | water | O | H2O
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 6-Hydroxy-benzo[d]isothiazole-3-carboxylic acid [4-(4-methyl-piperazin-1-ylmethyl)-3-trifluoromethyl-phenyl]-amide | CN1CCN(CC1)CC1=C(C=C(C=C1)NC(=O)C1=NSC2=C1C=CC(=C2)O)C(F)(F)F | C21H21F3N4O2S
